US04960936
48.0 g of 1,4-dichloro-2-nitrobenzene, 2 g of Raney nickel (60%, aqueous), 1.5 g of formamidine acetate and 120 ml of methanol are introduced in an autoclave equipped with gas introduction stirrer. The air in the autoclave is then displaced by nitrogen and then by hydrogen. The hydrogenation is carried out at a pressure of 12 bar and a temperature of 80° C. The hydrogenation time is 1 hour. 1,4-Dichloro-2-aminobenzene, 99.6% pure (analysed by gas chromatography), is obtained in quantitative yield.

reactant | 1,4-dichloro-2-nitrobenzene | 48.0 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | formamidine acetate | 1.5 g | C(C)(=O)O.C(=N)N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 2 g | [Ni] | Ni
solvent | methanol | 120 ml | CO | CH4O
product | 1,4-Dichloro-2-aminobenzene | quantitative yield | ClC1=C(C=C(C=C1)Cl)N | C6H5Cl2N
